US09289419B2
Synthesis of ethyl 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylate hydrochloride
10% Pd/C (40 mg) was added to a solution of ethyl imidazo[1,2-a]pyrazine-2-carboxylate (410 mg, 2.15 mmol) and conc.HCl (0.5 mL) in EtOH (9.5 mL) and stirring was continued under a hydrogen atmosphere for 16 h. The reaction mixture was filtered over a celite bed and the filtrate was concentrated under reduced pressure to afford the crude product, which was purified by washing with diethyl ether and dried to afford 400 mg of the title compound as a yellow hygroscopic solid.

reactant | ethyl imidazo[1,2-a]pyrazine-2-carboxylate | 2.15 mmol, 410 mg | N=1C(=CN2C1C=NC=C2)C(=O)OCC | C9H9N3O2
reactant | HCl | 0.5 mL | Cl | ClH
solvent | EtOH | 9.5 mL | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | ethyl 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylate hydrochloride | 400 mg | Cl.N=1C(=CN2C1CNCC2)C(=O)OCC | InChI=1S/C9H13N3O2.ClH/c1-2-14-9(13)7-6-12-4-3-10-5-8(12)11-7;/h6,10H,2-5H2,1H3;1H
